US09260413B2
128 g (0.9 mol) of MeI was added dropwise to the suspension of 2-chloro-5-methoxypyrimidin-4(3H)-one (74 g, crude, about 0.3 mol) and Cs2CO3(195 g, 0.6 mol) in 600 mL of DMF at 0° C. and the reaction mixture was stirred at this temperature for 1 h, then warmed to r.t., and stirred another 1 h. The mixture was poured into water and extracted with EtOAc several times. The extract was washed with water, brine and dried over Na2SO4 before being filtered and concentrated to give a crude product, which was purified by silica gel chromatography to give 31.2 g (71.2%) of 2-chloro-5-methoxy-3-methylpyrimidin -4(3H)-one. 1H-NMR (CDC3, 400 MHz) δ 7.37 (s, 1H), 3.80 (s, 3H), 3.61 (s, 3H). MS (ESI) m/z (M+H)+ 175.0/176.0.

reactant | MeI | 0.9 mol, 128 g | CI | CH3I
reactant | 2-chloro-5-methoxypyrimidin-4(3H)-one | about 0.3 mol, 74 g | ClC1=NC=C(C(N1)=O)OC | C5H5ClN2O2
reactant | Cs2CO3 | 0.6 mol, 195 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | water | O | H2O
solvent | DMF | 600 mL | CN(C)C=O | C3H7NO
product | 2-chloro-5-methoxy-3-methylpyrimidin -4(3H)-one | 31.2 g, 71.2% | ClC1=NC=C(C(N1C)=O)OC | C6H7ClN2O2
